US05948785
Ethyl 4-fluorobenzimidate hydrochloride was synthesized in the same manner as in Reference Example 2. That is, 4-fluorobenzonitrile (50.8 g, 0.407 mol) was treated with hydrogen chloride in ethanol (500 mL) to give 82.1 g (99%) of the target compound as colorless crystals.

reactant | 4-fluorobenzonitrile | 0.407 mol, 50.8 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 500 mL | C(C)O | C2H6O
product | Ethyl 4-fluorobenzimidate hydrochloride | Cl.FC1=CC=C(C(OCC)=N)C=C1 | InChI=1S/C9H10FNO.ClH/c1-2-12-9(11)7-3-5-8(10)6-4-7;/h3-6,11H,2H2,1H3;1H
